US04098904
C. Curtius Reaction with cis-2-(dimethylamino)cyclopentanecarboxylic acid
A solution of diphenyl phosphoryl azide (44.3 g., 0.16 mole) in 50 ml. benzene was added in 15 minutes to a solution of the part B amino acid (25.3 g., 0.16 mole) in 750 ml. benzene. After 15 minutes, triethyl amine (16.2 g., 0.16 mole) was added over 5 minutes. The solution was stirred for 30 minutes, then refluxed for 30 minutes. Benzyl alcohol (51.8 g., 0.48 mole) was added and the mixture refluxed overnight. The solution was extracted with 10% HCl. The aqueous layer was washed with ether, made basic with 40% NaOH, and extracted with ether. The ether layer was washed with water and saturated salt solution, dried (MgSO4), and evaporated to a brown oil (7.9 g.). The nmr (CDCl3) of the crude product was reasonable for a benzyl carbamate. The benzyl N-[2-(dimethylamino)cyclopentyl]carbamate material was used without purification.

reactant | diphenyl phosphoryl azide | 0.16 mole, 44.3 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethyl amine | 0.16 mole, 16.2 g | C(C)N(CC)CC | C6H15N
reactant | Benzyl alcohol | 0.48 mole, 51.8 g | C(C1=CC=CC=C1)O | C7H8O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | cis-2-(dimethylamino)cyclopentanecarboxylic acid | CN([C@@H]1[C@@H](CCC1)C(=O)O)C | C8H15NO2
